US08044052B2
3-(5-(Trifluoromethyl)pyridin-2-yloxy)benzaldehyde
To a solution of 2-(3-bromophenoxy)-5-(trifluoromethyl)pyridine (8.0 g, 25.15 mmol) in THF under inert atmosphere at −78° C. was added DMF (3.8 mL, 50.3 mmol) dropwise, followed by n-BuLi (31.4 mL, 50.3 mmol) dropwise. The reaction mixture was stirred for 1 h. The reaction mixture was quenched with saturated NH4Cl solution and the temperature was allowed to warm to room temperature. The mixture was extracted with ethyl acetate, dried over Na2SO4, and concentrated to dryness. Purification by column chromatography (EtOAc:Hexane, 40:60) gave the pure title compound (1.6 g). 1H NMR (500 MHz, CDCl3): δ 7.1 (d, 1H, J=8.5 Hz), 7.4 (m, 1H), 7.6 (m, 1H), 7.7 (d, 1H, J=7.5 Hz), 7.9 (1H), 8.4 (s, 1H), 10.0 (s, 1H).

reactant | 2-(3-bromophenoxy)-5-(trifluoromethyl)pyridine | 25.15 mmol, 8.0 g | BrC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1 | C12H7BrF3NO
reactant | DMF | 50.3 mmol, 3.8 mL | CN(C)C=O | C3H7NO
reactant | n-BuLi | 50.3 mmol, 31.4 mL | [Li]CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 3-(5-(Trifluoromethyl)pyridin-2-yloxy)benzaldehyde | 1.6 g | FC(C=1C=CC(=NC1)OC=1C=C(C=O)C=CC1)(F)F | C13H8F3NO2
